US08497278B2
4-chloro-N-((6-chloro-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-6-methylpyrimidin-2-amine (162)
The title compound was prepared according to Method A and the experimentals described for compound 139 from 6-chloro-3-(chloromethyl)-2-(4-fluorophenyl)imidazo[1,2-a]pyridine hydrochloride and 4-chloro-6-methylpyrimidin-2-amine. m/e+ 402.0, 404.0 for C19H14C12FN5.

reactant | 6-chloro-3-(chloromethyl)-2-(4-fluorophenyl)imidazo[1,2-a]pyridine hydrochloride | Cl.ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)F)CCl
reactant | 4-chloro-6-methylpyrimidin-2-amine | ClC1=NC(=NC(=C1)C)N | C5H6ClN3
product | 4-chloro-N-((6-chloro-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-6-methylpyrimidin-2-amine | ClC1=NC(=NC(=C1)C)NCC1=C(N=C2N1C=C(C=C2)Cl)C2=CC=C(C=C2)F | C19H14Cl2FN5
